US07456200B2
[3-(3-Chloromethyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanol
3-Hydroxymethylbenzoic acid, described in Reed, G. A.; Dimmel, D. R.; Malcolm, E. W. J. Org. Chem. 1993, 58 (23), 6372-6376, (175 mg, 1.15 mmol), 2-chloro-N-hydroxy-acetamidine (125 mg, 1.15 mmol) and HBTU was dissolved in anhydrous DMF (4 ml). Triethylamine (0.48 ml, 3.5 mmol) was added and the reaction was stirred at ambient temperature over night. The crude product was partitioned between dichloromethane and NaHCO3 (aq), the organic phase was dried (MgSO4) and the dichloromethane was removed in vacuo. The resulting DMF-solution was heated at 120° C. over night. The reaction mixture was concentrated in vacuo and the title compound (64 mg, 25%) was isolated by flash chromatography using 25-50% ethyl acetate in heptane. 1H NMR (CDCl3), δ (ppm): 8.15 (s, 1H), 8.06 (d, 1H), 7.62 (d, 1H), 7.53 (t, 1H); 4.80 (d, 2H), 4.66 (s, 1H); 1.99 (br. t, 1H).

reactant | 3-Hydroxymethylbenzoic acid | OCC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 2-chloro-N-hydroxy-acetamidine | 1.15 mmol, 175 mg | ClCC(=N)NO | C2H5ClN2O
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Triethylamine | 3.5 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | [3-(3-Chloromethyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanol | 64 mg, 25% | ClCC1=NOC(=N1)C=1C=C(C=CC1)CO | C10H9ClN2O2
